US07943774B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(Z)-2-(2-naphthyl)vinyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-20)
(2-Naphthylmethyl)(triphenyl)phosphonium chloride (454 mg) is dissolved in 5 ml of tetrahydrofuran and cooled to 0° C. under argon, and potassium tert.-butoxide (125 mg) is added, whereupon the colour of the solution turns to dark red. After 10 min of stirring, 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde (200 mg) is added. The mixture is stirred at 0° C. for another 30 min and then slowly warmed to room temperature. After a further 20 min, saturated ammonium chloride solution is added, and the aqueous phase is separated off. After extraction of the aqueous phase with ethyl acetate, the combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. After chromatographic purification, this gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(Z)-2-(2-naphthyl)vinyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (260 mg).

reactant | (2-Naphthylmethyl)(triphenyl)phosphonium chloride | 454 mg | [Cl-].C1=C(C=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert.-butoxide | 125 mg | CC(C)([O-])C.[K+]
reactant | 2-(1-{[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carbaldehyde | 200 mg | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C=O)C(F)(F)F | C16H17F3N4O2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[(Z)-2-(2-naphthyl)vinyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)\C=C/C1=CC2=CC=CC=C2C=C1)C(F)(F)F | C27H25F3N4OS
